US05693641
To sodium hydride (0.63 g, 15.72 mmol) in 30 mL tetrahydrofuran at 0° C. was added ethyl glycolate (1.15 mL, 12.09 mmol) over 10 minutes. The resulting alkoxide was then added to 2-methylthio-4-chloro-5-nitro-6-(3-dimethylaminocarbonylphenoxy)pyrimidine, a compound of formula (C), (4.46 g., 12.09 mmol), dropwise at 0° C. over 5 minutes. After 1 hours, the reaction mixture was warmed to ambient temperature and stirred for an additional 2 hours. The volatiles were evaporated to yield 2.55 g (48% yield) of 2-methylthio-4-(ethoxycarbonyl)methoxy-5-nitro-6-(3-dimethylaminocarbonylphenoxy)pyrimidine, a compound of formula (Q), as a yellow oil.

reactant | sodium hydride | 15.72 mmol, 0.63 g | [H-].[Na+]
reactant | ethyl glycolate | 12.09 mmol, 1.15 mL | C(CO)(=O)OCC | C4H8O3
reactant | 2-methylthio-4-chloro-5-nitro-6-(3-dimethylaminocarbonylphenoxy)pyrimidine | CSC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])OC1=CC(=CC=C1)C(=O)N(C)C | C14H13ClN4O4S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-methylthio-4-(ethoxycarbonyl)methoxy-5-nitro-6-(3-dimethylaminocarbonylphenoxy)pyrimidine | 2.55 g, 48% yield | CSC1=NC(=C(C(=N1)OCC(=O)OCC)[N+](=O)[O-])OC1=CC(=CC=C1)C(=O)N(C)C | C18H20N4O7S
